US09340555B2
To a stirred solution of N-(3,3-diethoxypropyl)-7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide (1.23 g, 2.11 mmol) in 20 ml of tetrahydrofuran was added 2 ml of 2M HCl (4.0 mmol). The mixture was stirred at room temperature for 5 hours and poured into 100 ml of water. 1M NaOH solution was added slowly until pH=7˜8. The precipitates were filtered, washed with water and dried in vacuo to give 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-(3-oxopropyl)thieno[3,2-b]pyridine-2-carboxamide as brown solid. Yield: 1.07 g, 100%.

reactant | N-(3,3-diethoxypropyl)-7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide | 2.11 mmol, 1.23 g | C(C)OC(CCNC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F)OCC | C29H30F2N4O5S
reactant | HCl | 4.0 mmol, 2M, 2 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
reactant | NaOH | 1M | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-(3-oxopropyl)thieno[3,2-b]pyridine-2-carboxamide | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCC=O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C25H20F2N4O4S
